US03978065
3,5-Dimethoxy-4-isobutyl-benzoyl chloride. Starting from 3-hydroxy-5-methoxy-benzoic acid methyl ester and 3-chloro-2-methyl-propene, 3-(2-methyl-2-propenyloxy)-5-methoxy-benzoic acid methyl ester is obtained. B.p. 148°-50°C/0.4 mmHg. By operating as described under C), 3,5-dimethoxy-4-(2-methylpropenyl)-benzoic acid is prepared. M.p. 159°-61°C (from diethyl ether). This compound is hydrogenated as under D) to give 3,5-dimethoxy-4-isobutyl-benzoic acid. M.p. 160°-62°C (from diethyl ether/light petroleum). The corresponding chloride melts at 48°-50°C (from ligroin upon cooling).

reactant | 3,5-dimethoxy-4-(2-methylpropenyl)-benzoic acid | COC=1C=C(C(=O)O)C=C(C1C=C(C)C)OC | C13H16O4
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,5-dimethoxy-4-isobutyl-benzoic acid | COC=1C=C(C(=O)O)C=C(C1CC(C)C)OC | C13H18O4
